US07872146B2
In a 15 ml hydrogenation reactor was charged a solution of 2-methyl-4-(2-nitro-phenyl)-pentan-3-ol (370 mg, 1.7 mmol) in EtOH (12 ml). Pd/C5% was added. The reaction mixture was stirred under hydrogen (4 bars) at room temperature for 2 hours. Filtration through celite and evaporation of ethanol afforded 2-methyl-4-(2-amino-phenyl)-pentan-3-ol as a white solid (320 mg-quantitative yield).

reactant | 2-methyl-4-(2-nitro-phenyl)-pentan-3-ol | 1.7 mmol, 370 mg | CC(C)C(C(C)C1=C(C=CC=C1)[N+](=O)[O-])O | C12H17NO3
solvent | EtOH | 12 ml | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | 2-methyl-4-(2-amino-phenyl)-pentan-3-ol | CC(C)C(C(C)C1=C(C=CC=C1)N)O | C12H19NO
